### PR TITLE
[Merged by Bors] - refactor(Algebra/Group/Defs): Separate commutative and associative multiplication (addition)

### PR DESCRIPTION
**Pull request by mans0954**
Currently in Mathlib there is no class for magma that are commutative but not associative - `Field` extends `CommRing` and `DivisionRing`, `CommRing` extends `Ring` and `CommMonoid`, `CommGroup` extends `Group` and `CommMonoid` and `CommMonoid` extends `CommSemigroup` and `Monoid`. `CommSemigroup` currently extends only `Semigroup` and has `mul_comm` as a property.

This PR moves `mul_comm` into a new `CommMagma` (`AddCommMagma`) class which extends `Mul` (`Add`). `CommSemigroup` now extends `Semigroup` and `CommMagma`.

The rest of Mathlib4 compiles as before, except with the need to increase `synthInstance.maxHeartbeats` for `lift_of_splits`.

(Update: The linter is objecting to an unused argument in what seems to be a completely unrelated bit of code (`AddEquiv.lpPiLp`). Trying a `nolint` for now.)

Also referenced in https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60add_comm.60.20without.20.60add_assoc.60

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
!bench

File: Mathlib/Algebra/Jordan/Basic.lean [hunk 1]
```diff
@@ -122,6 +122,10 @@ instance (priority := 100) CommSemigroup.isCommJordan [CommSemigroup A] : IsComm
   lmul_comm_rmul_rmul _ _ := mul_assoc _ _ _
 #align comm_semigroup.is_comm_jordan CommSemigroup.isCommJordan
 
+-- see Note [lower instance priority]
+instance (priority := 100) IsCommJordan.isCommMul [Mul A] [IsCommJordan A] : CommMul A where
+  mul_comm := IsCommJordan.mul_comm
```
Comment (mans0954) [inline Mathlib/Algebra/Jordan/Basic.lean:127]: @eric-wieser would it be more idiomatic to change the definition of `IsCommJordan` to:
```
class IsCommJordan [CommMul A] : Prop where
  lmul_comm_rmul_rmul : ∀ a b : A, a * b * (a * a) = a * (b * (a * a))
```
?

One would then need to introduce
```
class NonUnitalNonAssocCommRing (α : Type u) extends NonUnitalNonAssocRing α, CommMul α
```
in order to be able to write:
```
variable {A} [NonUnitalNonAssocCommRing A] [IsCommJordan A]
```

Comment (eric-wieser) [reply Mathlib/Algebra/Jordan/Basic.lean]: Yes, I think that would be more idiomatic. The approach here is a bit dangerous because it forms a loop; though perhaps you already got rid of it.

**Comment by eric-wieser** [comment]
!bench

File: Mathlib/Algebra/Group/Defs.lean [hunk 2]
```diff
@@ -274,87 +274,86 @@ instance Semigroup.to_isAssociative : IsAssociative G (· * ·) :=
...
+/-- A commutative addition is a type with an addition which commutes-/
+@[ext]
+class AddComm (G : Type u) extends Add G where
+  /-- Addition is commutative in an additive commutative semigroup. -/
+  protected add_comm : ∀ a b : G, a + b = b + a
+
+/-- A commutative multiplication is a type with a multiplication which commutes-/
 @[ext]
-class CommSemigroup (G : Type u) extends Semigroup G where
+class CommMul (G : Type u) extends Mul G where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Defs.lean:285]: These should be either `*Comm` or `Comm*`, not one of each!

File: Mathlib/Algebra/Jordan/Basic.lean [hunk 3]
```diff
@@ -86,24 +86,23 @@ class IsJordan [Mul A] : Prop where
...
+class IsCommJordan [CommMul A] : Prop where
   lmul_comm_rmul_rmul : ∀ a b : A, a * b * (a * a) = a * (b * (a * a))
 #align is_comm_jordan IsCommJordan
 
 -- see Note [lower instance priority]
 /-- A (commutative) Jordan multiplication is also a Jordan multipication -/
-instance (priority := 100) IsCommJordan.toIsJordan [Mul A] [IsCommJordan A] : IsJordan A where
-  lmul_comm_rmul a b := by rw [IsCommJordan.mul_comm, IsCommJordan.mul_comm a b]
+instance (priority := 100) IsCommJordan.toIsJordan [CommMul A] [IsCommJordan A] : IsJordan A where
+  lmul_comm_rmul a b := by rw [CommMul.mul_comm, CommMul.mul_comm a b]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Jordan/Basic.lean:96]:
```suggestion
  lmul_comm_rmul a b := by rw [mul_comm, mul_comm a b]
```
and throughout

File: Mathlib/Algebra/Ring/Defs.lean [hunk 4]
```diff
@@ -236,6 +236,9 @@ theorem ite_and_mul_zero {α : Type*} [MulZeroClass α] (P Q : Prop) [Decidable
   simp only [← ite_and, ite_mul, mul_ite, mul_zero, zero_mul, and_comm]
 #align ite_and_mul_zero ite_and_mul_zero
 
+/-- A not-necessarily-unital, not-necessarily-associative, but commutative semiring. -/
+class  NonUnitalNonAssocCommSemiring  (α : Type u) extends NonUnitalNonAssocSemiring α, CommMul α
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Defs.lean:240]:
```suggestion
class NonUnitalNonAssocCommSemiring (α : Type u) extends NonUnitalNonAssocSemiring α, CommMul α
```

File: Mathlib/Algebra/Ring/Defs.lean [hunk 5]
```diff
@@ -421,6 +424,14 @@ instance (priority := 200) : Semiring α :=
 
 end Ring
 
+/-- A non-unital non-associative commutative ring is a `NonUnitalNonAssocRing` with commutative
+multiplication. -/
+class NonUnitalNonAssocCommRing (α : Type u) extends NonUnitalNonAssocRing α, CommMul α
+
+-- see Note [lower instance priority]
+instance (priority := 100) NonUnitalNonAssocCommRing.toNonUnitalNonAssocCommSemiring
+[s : NonUnitalNonAssocCommRing α] : NonUnitalNonAssocCommSemiring α := {s with}
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Defs.lean:433]:
```suggestion
class NonUnitalNonAssocCommRing (α : Type u)
  extends NonUnitalNonAssocRing α, NonUnitalNonAssocCommSemiring α
```

File: Mathlib/NumberTheory/NumberField/Units.lean [hunk 6]
```diff
@@ -502,6 +502,8 @@ theorem unitLattice_rank :
   rw [← Units.finrank_eq_rank]
   exact Zlattice.rank ℝ (unitLattice_span_eq_top K)
 
+set_option synthInstance.maxHeartbeats 27000
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/NumberField/Units.lean:505]: This should only ever be use with `in` to attach it to a single declaration (and repeat as necessary)

File: Mathlib/Algebra/Ring/Defs.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Ring/Defs.lean:433]: This likely will make a big difference to performance, hopefully positively.

File: Mathlib/Algebra/Group/Defs.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Algebra/Group/Defs.lean:285]: We have `CommMonoid`, `CommGroup` and `CommSemigroup` for multiplicative and `AddCommSemigroup`, `AddCommMonoid` and `AddCommGroup` for additive. So should this be `CommMul` and `AddCommMul` (which sounds wrong)? `to_additive` mapped `CommMul` to `AddComm` by default.

Comment (mans0954) [reply Mathlib/Algebra/Group/Defs.lean:285]: @eric-wieser How about `CommMagma` and `AddCommMagma`? But the last time I used `Magma` I was told it should be `Mul`.

File: Mathlib/NumberTheory/NumberField/Units.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/NumberTheory/NumberField/Units.lean]: Done https://github.com/leanprover-community/mathlib4/pull/7060/commits/2631f67ad8dad4ca4be6f49769a21bc266303c5b thanks.

File: Mathlib/Algebra/Jordan/Basic.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Algebra/Jordan/Basic.lean]: @eric-wieser It seems to build okay. Where is the loop?

File: Mathlib/Algebra/Group/Defs.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Defs.lean]: Those names sound good to me

Comment (mans0954) [reply Mathlib/Algebra/Group/Defs.lean]: Thanks, I've made that change.

File: Mathlib/Algebra/Ring/Defs.lean [hunk 7]
```diff
@@ -421,6 +424,11 @@ instance (priority := 200) : Semiring α :=
 
 end Ring
 
+/-- A non-unital non-associative commutative ring is a `NonUnitalNonAssocRing` with commutative
+multiplication. -/
+class NonUnitalNonAssocCommRing (α : Type u)
+  extends NonUnitalNonAssocRing α, NonUnitalNonAssocCommSemiring α
+
 /-- A non-unital commutative ring is a `NonUnitalRing` with commutative multiplication. -/
 class NonUnitalCommRing (α : Type u) extends NonUnitalRing α, CommSemigroup α
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Defs.lean:433]: Perhaps
```suggestion
class NonUnitalCommRing (α : Type u) extends NonUnitalRing α, NonUnitalNonAssocCommRing α
```

Comment (mans0954) [reply Mathlib/Algebra/Ring/Defs.lean]: @eric-wieser This works but requires a few more `set_option maxHeartbeats`.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by eric-wieser** [comment]
!bench

**Comment by mans0954** [comment]
@eric-wieser do you think this PR is the right approach?

**Comment by eric-wieser** [comment]
I haven't looked recently, but generally I think yes. The performance impact is unfortunate; but I don't think it needs to block merging.

I think I'd prefer:
* to get a second opinion from another maintainer/a zulip thread
* do one final pass of the details

**Comment by mans0954** [comment]
> * to get a second opinion from another maintainer/a zulip thread

Okay, I've solicited views here: https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237060.20Separate.20commutative.20and.20associative.20multiplication

**Comment by kbuzzard** [comment]
Is it possible to see absolute time changes rather than percentages?

**Comment by eric-wieser** [comment]
!bench

**Comment by alexjbest** [comment]
That certainly doesn't look too bad to me, so +1 from me

File: Mathlib/Algebra/Group/Defs.lean [hunk 8]
```diff
@@ -315,87 +315,86 @@ instance Semigroup.to_isAssociative : IsAssociative G (· * ·) :=
...
-@[to_additive AddCommSemigroup.IsLeftCancelAdd.toIsRightCancelAdd "Any
-`AddCommSemigroup G` that satisfies `IsLeftCancelAdd G` also satisfies
-`IsRightCancelAdd G`."]
-lemma CommSemigroup.IsLeftCancelMul.toIsRightCancelMul (G : Type u) [CommSemigroup G]
-    [IsLeftCancelMul G] : IsRightCancelMul G :=
+#align comm_semigroup.is_right_cancel_mul.to_is_left_cancel_mul CommMagma.IsRightCancelMul.toIsLeftCancelMul
+#align add_comm_semigroup.is_right_cancel_add.to_is_left_cancel_add AddCommMagma.IsRightCancelAdd.toIsLeftCancelAdd
+
+/-- Any `CommSemigroup G` that satisfies `IsLeftCancelMul G` also satisfies `IsRightCancelMul G`. -/
+@[to_additive AddCommSemigroup.IsLeftCancelAdd.toIsRightCancelAdd "Any `AddCommSemigroup G` that
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Defs.lean:373]:
```suggestion
@[to_additive AddCommMagma.IsLeftCancelAdd.toIsRightCancelAdd "Any `AddCommSemigroup G` that
```

File: Mathlib/Algebra/Group/Defs.lean [hunk 9]
```diff
@@ -315,87 +315,86 @@ instance Semigroup.to_isAssociative : IsAssociative G (· * ·) :=
...
+`IsLeftCancelAdd G` also satisfies `IsCancelAdd G`."]
+lemma CommMagma.IsLeftCancelMul.toIsCancelMul (G : Type u) [CommMagma G] [IsLeftCancelMul G] :
+    IsCancelMul G := { CommMagma.IsLeftCancelMul.toIsRightCancelMul G with }
+#align comm_semigroup.is_left_cancel_mul.to_is_cancel_mul CommMagma.IsLeftCancelMul.toIsCancelMul
+#align add_comm_semigroup.is_left_cancel_add.to_is_cancel_add AddCommMagma.IsLeftCancelAdd.toIsCancelAdd
+
+/-- Any `CommMagma G` that satisfies `IsRightCancelMul G` also satisfies `IsCancelMul G`. -/
+@[to_additive AddCommMagma.IsRightCancelAdd.toIsCancelAdd "Any `AddCommMagma G` that satisfies
+`IsRightCancelAdd G` also satisfies `IsCancelAdd G`."]
+lemma CommSemigroup.IsRightCancelMul.toIsCancelMul (G : Type u) [CommMagma G] [IsRightCancelMul G] :
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Defs.lean:392]:
```suggestion
lemma CommMagma.IsRightCancelMul.toIsCancelMul (G : Type u) [CommMagma G] [IsRightCancelMul G] :
```

File: Mathlib/Algebra/Group/Defs.lean [hunk 10]
```diff
@@ -315,87 +315,86 @@ instance Semigroup.to_isAssociative : IsAssociative G (· * ·) :=
...
+    IsCancelMul G := { CommMagma.IsRightCancelMul.toIsLeftCancelMul G with }
 #align comm_semigroup.is_right_cancel_mul.to_is_cancel_mul CommSemigroup.IsRightCancelMul.toIsCancelMul
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Defs.lean:394]:
```suggestion
#align comm_semigroup.is_right_cancel_mul.to_is_cancel_mul CommMagma.IsRightCancelMul.toIsCancelMul
```

File: Mathlib/Algebra/Group/Defs.lean [hunk 11]
```diff
@@ -315,87 +315,86 @@ instance Semigroup.to_isAssociative : IsAssociative G (· * ·) :=
...
+
+/-- Any `CommSemigroup G` that satisfies `IsLeftCancelMul G` also satisfies `IsRightCancelMul G`. -/
+@[to_additive AddCommSemigroup.IsLeftCancelAdd.toIsRightCancelAdd "Any `AddCommSemigroup G` that
+satisfies `IsLeftCancelAdd G` also satisfies `IsRightCancelAdd G`."]
+lemma CommMagma.IsLeftCancelMul.toIsRightCancelMul (G : Type u) [CommMagma G] [IsLeftCancelMul G] :
+    IsRightCancelMul G :=
   ⟨fun _ _ _ h => mul_left_cancel <| (mul_comm _ _).trans (h.trans (mul_comm _ _))⟩
-#align comm_semigroup.is_left_cancel_mul.to_is_right_cancel_mul CommSemigroup.IsLeftCancelMul.toIsRightCancelMul
+#align comm_semigroup.is_left_cancel_mul.to_is_right_cancel_mul CommMagma.IsLeftCancelMul.toIsRightCancelMul
 #align add_comm_semigroup.is_left_cancel_add.to_is_right_cancel_add AddCommSemigroup.IsLeftCancelAdd.toIsRightCancelAdd
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Defs.lean:379]:
```suggestion
#align add_comm_semigroup.is_left_cancel_add.to_is_right_cancel_add AddCommMagma.IsLeftCancelAdd.toIsRightCancelAdd
```

File: Mathlib/Algebra/Group/Hom/Instances.lean [hunk 12]
```diff
@@ -345,4 +345,24 @@ def AddMonoid.End.mulRight : R →+ AddMonoid.End R :=
 #align add_monoid.End.mul_right AddMonoid.End.mulRight
 #align add_monoid.End.mul_right_apply_apply AddMonoid.End.mulRight_apply_apply
 
+lemma AddMonoid.End.commute_mulRight_eq_mulLeft (a : R) (h : ∀ (b : R), Commute a b) :
+    mulRight a = mulLeft a := by
+  apply AddMonoidHom.ext
+  intro _
+  rw [mulLeft_apply_apply, mulRight_apply_apply, h]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Hom/Instances.lean:352]:
```suggestion
    mulRight a = mulLeft a :=
  AddMonoidHom.ext fun _ ↦ (h _).eq.symm
```

File: Mathlib/Analysis/NormedSpace/LpEquiv.lean [hunk 13]
```diff
@@ -81,6 +81,7 @@ theorem equiv_lpPiLp_norm (f : lp E p) : ‖Equiv.lpPiLp f‖ = ‖f‖ := by
 
 /-- The canonical `AddEquiv` between `lp E p` and `PiLp p E` when `E : α → Type u` with
 `[Fintype α]` and `[Fact (1 ≤ p)]`. -/
+@[nolint unusedArguments]
 def AddEquiv.lpPiLp [Fact (1 ≤ p)] : lp E p ≃+ PiLp p E :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/LpEquiv.lean]: I can't explain why this didn't trip the linter before, but this argument really isn't necessary.
```suggestion
`[Fintype α]`. -/
def AddEquiv.lpPiLp : lp E p ≃+ PiLp p E :=
```

**Review by j-loreaux — COMMENTED** [review]
This looks good. I think the slow downs are unfortunate, but acceptable for now.

bors d+

File: Mathlib/Analysis/NormedSpace/LpEquiv.lean (hunk 13 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/LpEquiv.lean]: I just pushed this change myself.

File: Mathlib/Algebra/Group/Hom/Instances.lean [hunk 14]
```diff
@@ -345,4 +345,24 @@ def AddMonoid.End.mulRight : R →+ AddMonoid.End R :=
 #align add_monoid.End.mul_right AddMonoid.End.mulRight
 #align add_monoid.End.mul_right_apply_apply AddMonoid.End.mulRight_apply_apply
 
+lemma AddMonoid.End.commute_mulRight_eq_mulLeft (a : R) (h : ∀ (b : R), Commute a b) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Hom/Instances.lean:348]:
```suggestion
lemma AddMonoid.End.mulRight_eq_mulLeft_of_commute (a : R) (h : ∀ (b : R), Commute a b) :
```

**Comment by mans0954** [comment]
```
Error: ./././Mathlib/NumberTheory/NumberField/Discriminant.lean:51:24: error: (deterministic) timeout at 'isDefEq', maximum number of heartbeats (200000) has been reached (use 'set_option maxHeartbeats <num>' to set the limit)
```
Even setting the heartbeats to 900,000, it still fails at this point.

**Comment by mans0954** [comment]
> ```
> Error: ./././Mathlib/NumberTheory/NumberField/Discriminant.lean:51:24: error: (deterministic) timeout at 'isDefEq', maximum number of heartbeats (200000) has been reached (use 'set_option maxHeartbeats <num>' to set the limit)
> ```
> 
> Even setting the heartbeats to 900,000, it still fails at this point.

The problem seems to have been introduced in #8714 - if I revert that then it builds.

**Comment by j-loreaux** [comment]
Can you isolate the offending line in that proof? It would be good to understand what this PR is breaking there, especially since it is so egregious. We should no longer merge with a heartbeat bump of this magnitude.

**Comment by mans0954** [comment]
> Can you isolate the offending line in that proof? It would be good to understand what this PR is breaking there, especially since it is so egregious. We should no longer merge with a heartbeat bump of this magnitude.

@j-loreaux this will produce the same issue:
```
variable {L : Type*} [Field L] [NumberField L] (f : K ≃ₐ[ℚ] L) (f₀ : 𝓞 K ≃ₗ[ℤ] 𝓞 L := (integralClosure_algEquiv_restrict (f.restrictScalars ℤ)).toLinearEquiv)

#check discr_eq_discr _ ((RingOfIntegers.basis K).map f₀)
```

**Comment by j-loreaux** [comment]
Is it just having trouble filling in the unspecified argument?

**Comment by mans0954** [comment]
> Is it just having trouble filling in the unspecified argument?

Ah, that's it, thanks. Previously I'd tried:
```
← discr_eq_discr K ((RingOfIntegers.basis K).map f₀)
```
but it should be `L` not `K`.
